datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:9].[H:8],465.49092
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]#[C:6][H:13])[C:7](=[C:8]([H:15])[H:16])[H:14])[H:9].[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]#[C:6][H:13])[C:7](=[C:8]([H:15])[H:16])[H:14])[H:17])[H:9],5.98312
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[H:15])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:12]([C:11]#[C:10][H:14])([C:13]([H:16])([H:17])[H:18])[H:15])[H:6],27.1542
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([O:14])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[O:14][C:13]([H:15])([H:16])[H:17])([H:4])([H:5])[H:6],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([H:12])([H:13])[H:14])[C:9]([H:15])([H:16])[H:17])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:10])[H:11])([C:8]([H:12])([H:13])[H:14])[C:9]([H:15])([H:16])[H:17])[H:3],49.2038
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:11])[H:3].[C:6](=[C:7][C:8]([H:12])([H:13])[H:14])([H:9])[H:10],119.453
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])[C:14]([H:15])([H:16])[H:17],31.664512
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])[H:6],38.8275
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:11])([H:12])[H:13].[H:14][H:35],18.706664
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19])[H:5],3.5564
[C:13](=[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])[H:18])[H:17].[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13](=[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])[H:18])[H:17].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6]>>[C:0](=[C:1]=[C:2]([C:3](=[C:4]=[C:5]([H:10])[H:11])[H:8])[H:7])([H:6])[H:9],218.723
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]=[S:13])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:14])([H:15])[H:16])=[S:13],24.2672
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[H:8]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][H:8],5.0208
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][O:6][H:17])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:11])[O:5]1)([H:7])([H:8])[H:9].[O:6][H:17],40.095272
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])[H:14])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:10])([H:8])[H:9],150.247
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[S:12]([S:13][H:15])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:14])[H:5].[S:12][S:13][H:15],-3.7656
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([O:12][O:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:13][O:12][C:11]([H:14])([H:15])[H:16],85.60464
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](#[C:6][C:7]([C:8]([H:12])([H:13])[H:14])[C:9]#[C:10][H:15])[H:11]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6]#[C:5][H:11])([C:8]([H:12])([H:13])[H:14])[C:9]#[C:10][H:15],21.3384
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[H:15])[H:8])[H:7],8.1588
